US08242175B2
A mixture of (E)-3-(4-{(E)-3-[5-chloro-2-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride (250 mg, 0.56 mmol), HOBT (139 mg, 1.03 mmol), EDC (196 mg, 1.03 mmol), TEA (0.568 ml, 4.08 mmol) and NH2OTHP (89 mg, 0.765 mmol) in DCM (5 ml) was stirred overnight at room temperature. The solvent was evaporated and the residue was partitioned between water and AcOEt. The phases were separated and the aqueous layer was brought to basic conditions with NH4OH and extracted with DCM. The collected organic extract were dried over Na2SO4 and evaporated in vacuo. The crude mixture was purified by silica gel chromatography (eluent: DCM/MeOH/NH4OH 97:3:0.1) and the resulting product was dissolved in DCM and treated with HCl/Et2O for 2.5 h. The precipitate was filtered and triturated with isopropanol and di-isopropylether to give 61 mg of (E)-3-(4-{(E)-3-[5-chloro-2-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide hydrochloride.

reactant | (E)-3-(4-{(E)-3-[5-chloro-2-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride | 0.56 mmol, 250 mg | Cl.ClC=1C=CC(=C(C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O)N1CCN(CC1)C
reactant | HOBT | 1.03 mmol, 139 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.03 mmol, 196 mg
reactant | NH2OTHP | 0.765 mmol, 89 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-{(E)-3-[5-chloro-2-(4-methyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy-acrylamide hydrochloride | 61 mg | Cl.ClC=1C=CC(=C(C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NO)=O)N1CCN(CC1)C | InChI=1S/C23H24ClN3O3.ClH/c1-26-12-14-27(15-13-26)21-9-8-19(24)16-20(21)22(28)10-6-17-2-4-18(5-3-17)7-11-23(29)25-30;/h2-11,16,30H,12-15H2,1H3,(H,25,29);1H/b10-6+,11-7+;
